* Created by KLayout
*** My special header ***

* cell write_driver
* pin BL0
* pin BL1
* pin BLB0
* pin BLB1
* pin DIN0
* pin DIN1
* pin VDD
* pin VSS
* pin WE
* pin WEB
.SUBCKT write_driver BL0 BL1 BLB0 BLB1 DIN0 DIN1 VDD VSS WE WEB
* device instance $1 r0 *1 36.4,-1.2 PMOS
XM$1 DIN1 WEB BL1 VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $2 r0 *1 23.4,-1.2 PMOS
XM$2 BLB1 WEB \$9 VDD PMOS L=1u W=6.8u AS=19.04p AD=10.2p PS=19.2u PD=9.8u
* device instance $3 r0 *1 27.4,-1.2 PMOS
XM$3 \$9 DIN1 VDD VDD PMOS L=1u W=6.8u AS=10.2p AD=19.04p PS=9.8u PD=19.2u
* device instance $4 r0 *1 -1.2,-1.2 PMOS
XM$4 VDD DIN0 \$5 VDD PMOS L=1u W=6.8u AS=19.04p AD=10.2p PS=19.2u PD=9.8u
* device instance $5 r0 *1 2.8,-1.2 PMOS
XM$5 \$5 WEB BLB0 VDD PMOS L=1u W=6.8u AS=10.2p AD=19.04p PS=9.8u PD=19.2u
* device instance $6 r0 *1 -10.2,-1.2 PMOS
XM$6 BL0 WEB DIN0 VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $7 r180 *1 -1.2,-23.3 NMOS
XM$7 \$5 DIN0 VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $8 m0 *1 27.4,-23.3 NMOS
XM$8 \$9 DIN1 VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $9 r0 *1 -10.2,22 NMOS
XM$9 BL0 WE DIN0 VSS NMOS L=1u W=5.2u AS=14.56p AD=14.56p PS=16u PD=16u
* device instance $10 m90 *1 36.4,22 NMOS
XM$10 BL1 WE DIN1 VSS NMOS L=1u W=5.2u AS=14.56p AD=14.56p PS=16u PD=16u
* device instance $11 r0 *1 2.8,22 NMOS
XM$11 \$5 WE BLB0 VSS NMOS L=1u W=5.2u AS=14.56p AD=14.56p PS=16u PD=16u
* device instance $12 m90 *1 23.4,22 NMOS
XM$12 \$9 WE BLB1 VSS NMOS L=1u W=5.2u AS=14.56p AD=14.56p PS=16u PD=16u
.ENDS write_driver
