** sch_path: /home/take/Design/tr10_sram/array/8word_x_2bit/sram_2w2b.sch
.subckt sram_2w2b WL0 BL0 VDD BL1 BLB1 WL1 BLB0 VSS
*.PININFO VDD:B VSS:B BL0:B BLB0:B BL1:B BLB1:B WL0:I WL1:I
x1 BL0 BLB0 WL0 VDD VSS sram6t_tr10
x2 BL1 BLB1 WL0 VDD VSS sram6t_tr10
x3 BL0 BLB0 WL1 VDD VSS sram6t_tr10
x4 BL1 BLB1 WL1 VDD VSS sram6t_tr10
.ends

* expanding   symbol:  sram6t_tr10.sym # of pins=5
** sym_path: /home/take/Design/tr10_sram/array/8word_x_2bit/sram6t_tr10.sym
** sch_path: /home/take/Design/tr10_sram/array/8word_x_2bit/sram6t_tr10.sch
.subckt sram6t_tr10 BL BLB WL VDD VSS
*.PININFO BL:B BLB:B WL:I VDD:B VSS:B
MXM1 net1 net2 VDD VDD PMOS w=3.4u l=1u
MXM2 net2 net1 VDD VDD PMOS w=3.4u l=1u
MXM4 net2 net1 VSS VSS NMOS w=6.8u l=1u
MXM3 net1 net2 VSS VSS NMOS w=6.8u l=1u
MXM5 BL WL net1 VSS NMOS w=5.1u l=1u
MXM6 BLB WL net2 VSS NMOS w=5.1u l=1u
.ends

